US06852711B2
6-[-2-(4-Fluoro-phenyl)-ethyl]-4-hydroxy-6-isopropyl-3-(5-isopropyl-benzothiazol-6-ylsulfanyl)-5,6-dihydro-pyran-2-one
The title compound was prepared according to General Method 16b using 6-[(4-fluoro-phenyl)-ethyl]-4-hydroxy-6-isopropyl-5,6-dihydropyran-2-one (Example E-27; 0.5 g, 1.8 mmol), toluene-4-thiosulfonic acid S-(5-isopropyl-benzothiazol-6-yl)ester (Example BB-4; 0.65 g, 1.8 mmol), NEt3 (0.22 g, 2.16 mmol), and acetonitrile (10 mL). The crude compound was purified by flash silica gel chromatography (25% EtOAc in hexanes to 100% EtOAc to 5% MeOH in EtOAc as eluents), mp 104-105° C. MS (APCI): 486.

reactant | 6-[(4-fluoro-phenyl)-ethyl]-4-hydroxy-6-isopropyl-5,6-dihydropyran-2-one | 1.8 mmol, 0.5 g | FC1=CC=C(C=C1)CCC1(CC(=CC(O1)=O)O)C(C)C | C16H19FO3
reactant | toluene-4-thiosulfonic acid S-(5-isopropyl-benzothiazol-6-yl)ester | 1.8 mmol, 0.65 g | C(C)(C)C=1C(=CC2=C(N=CS2)C1)SS(=O)(=O)C1=CC=C(C=C1)C | C17H17NO2S3
reactant | NEt3 | 2.16 mmol, 0.22 g | CCN(CC)CC | C6H15N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 6-[-2-(4-Fluoro-phenyl)-ethyl]-4-hydroxy-6-isopropyl-3-(5-isopropyl-benzothiazol-6-ylsulfanyl)-5,6-dihydro-pyran-2-one | FC1=CC=C(C=C1)CCC1(CC(=C(C(O1)=O)SC1=CC2=C(N=CS2)C=C1C(C)C)O)C(C)C | C26H28FNO3S2
